US06858638B2
2-Methylsulfonyl-N-(3-thiophen-2-yl-1H-indazol-5-yl)-benzenesulfonamide can be obtained as described in Example 47 from 1.5 g of tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 339 mg of 2-thiopheneboronic acid, 50 ml of dimethylformamide, 4.8 ml of a saturated aqueous sodium hydrogencarbonate solution and 64 mg of tetrakis(triphenylphosphine)palladium[0]. 350 mg of 2-methylsulfonyl-N-(3-thiophen-2-yl-1H-indazol-5-yl)benzenesulfonamide are thus obtained in the form of an ochre solid melting at 246° C. (analysis C18H15N3O4S3 % calculated C, 49.87; H, 3.49; N, 9.69; O, 14.76; S, 22.19. % found C, 49.82; H, 3.67; N, 9.08; S, 20.42).

reactant | tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 1.5 g | IC1=NN(C2=CC=C(C=C12)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C24H28IN3O8S2
reactant | 2-thiopheneboronic acid | 339 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium hydrogencarbonate | 4.8 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-methylsulfonyl-N-(3-thiophen-2-yl-1H-indazol-5-yl)benzenesulfonamide | 350 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C=1SC=CC1 | C18H15N3O4S3
